US09278931B2
A) tert-butyl(trans-2-{4-[(biphenyl-3-ylcarbonyl)amino]phenyl}cyclopropyl)carbamate
To a solution of tert-butyl[trans-2-(4-aminophenyl)cyclopropyl]carbamate (100 mg) described in a document (J. Am. Chem. Soc., 2010, 132, 6827.) in acetonitrile (4 mL) were added biphenyl-3-carbonyl chloride (131 mg) and triethylamine (61.1 mg). The mixture was stirred at room temperature overnight and water was added. To the reaction mixture was added ethyl acetate, and the resulting solid was collected by filtration to give the title compound (154 mg).

reactant | tert-butyl[trans-2-(4-aminophenyl)cyclopropyl]carbamate | 100 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)N)=O | C14H20N2O2
reactant | biphenyl-3-carbonyl chloride | 131 mg | C1(=CC(=CC=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | triethylamine | 61.1 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl(trans-2-{4-[(biphenyl-3-ylcarbonyl)amino]phenyl}cyclopropyl)carbamate | 154 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)C1=CC=CC=C1)=O | C27H28N2O3
